### PR TITLE
feat: Infinitude of Woodall primes

### LINKED ISSUE #1782: Wikipedia: Woodall Primes
### What is the conjecture
There are infinite prime Woodall numbers, i.e., numbers of form $k2^k - 1$, $k>1$.
 
* https://en.wikipedia.org/wiki/Woodall_number#Woodall_primes
* https://oeis.org/A002234

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [X] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Paul-Lez**
Fixes #1782.

### CODE REVIEW

File: FormalConjectures/Wikipedia/WoodalPrimes.lean [hunk 1]
```diff
@@ -13,24 +13,22 @@ WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
...
+-/
 
-namespace Erdos855
+namespace WoodallPrimes
 
+/-- There are infinitely many prime numbers of the form `k * 2 ^ k - 1` for `k > 1`. -/
 @[category research open, AMS 11]
-theorem erdos_855 : answer(sorry) ↔
-    ∀ᶠ x in atTop, ∀ᶠ y in atTop, π (x + y) ≤ π x + π y := by
+theorem infinitely_many_woodall_primes : {(k * 2 ^ k - 1) | (k : ℕ) (_ : 1 < k)}.Infinite := by
```
Comment (felixpernegger) [inline FormalConjectures/Wikipedia/WoodalPrimes.lean]:
```suggestion
theorem infinitely_many_woodall_primes : {k : ℕ | Nat.Prime (k * 2 ^ k - 1)}.Infinite := by
```

Shouldnt this be something like this rather? I dont think your statement mentions primes. (Also note $k>1$ is redundant)

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/WoodalPrimes.lean]: Indeed (what was I thinking?!). 

Re the `k > 1` condition - this is indeed redundant, but I personally prefer to keep things closer to the informal text when it doesn't make the formalisation much more cumbersome.

Comment (mo271) [reply FormalConjectures/Wikipedia/WoodalPrimes.lean]: forgot to push?!

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/WoodalPrimes.lean]: Indeed - pushed!

**Review by mo271 — APPROVED** [review]
